US08114865B2
Step 3. 1-Piperidin-4-yl-1H-pyrazole-4-carboxylic acid [5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-amide [(I), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=1-piperidin-4-yl-1H-pyrazol-4-yl], cpd. 222
The crude 4-{4-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylcarbamoyl]-pyrazol-1-yl}-piperidine-1-carboxylic acid tert-butyl ester was dissolved into 15 mL of 1,4-dioxane and added with 3 mL of 4M hydrochloric acid in 1,4-dioxane and stirred at room temperature overnight. Methanol was then added and the mixture stirred for additional 2 hours. The volatiles were removed under reduced pressure, the residue re-dissolved into ethyl acetate, washed with 10% ammonium hydroxide in water, dried over sodium sulfate and evaporated to dryness. The residue was stirred overnight with diethyl ether/methanol 95:5, filtered, washed with diethyl ether/methanol 9:1 then with diethyl ether and dried in oven at 60° C. affording 170 mg of the title compound.

reactant | 4-{4-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylcarbamoyl]-pyrazol-1-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C(NC1=NN(C2=CC=C(C=C12)S(=O)(=O)C1=CC(=CC(=C1)F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C46H42F2N6O5S
reactant | hydrochloric acid | 4M, 3 mL | Cl | ClH
reactant | Methanol | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 1-Piperidin-4-yl-1H-pyrazole-4-carboxylic acid [5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-amide | 170 mg | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NNC2=CC1)NC(=O)C=1C=NN(C1)C1CCNCC1 | C22H20F2N6O3S
